US07671192B2
A mixture of ethyl 1-{9-[(4S,2R,3R,5R)-3,4-dihydroxy-5-(hydroxymethyl)oxolan-2-yl]-6-aminopurin-2-yl}pyrazole-4-carboxylate (46.4 g) and methylamine (40% in water, 600 ml) was stirred at ambient temperature for about 4 hours, following the progress of the reaction by HPLC analysis. The majority of the excess methylamine was removed under reduced pressure, and the remaining mixture cooled at 0° C. for 2 hours. The solid material was filtered off, washed with ice-cold 200 proof ethanol, and dried under reduced pressure, to provide (1-{9-[(4S,2R,3R,5R)-3,4-dihydroxy-5-(hydroxymethyl)oxolan-2-yl]-6-aminopurin-2-yl}pyrazol-4-yl)-N-methylcarboxamide as its monohydrate.

reactant | ethyl 1-{9-[(4S,2R,3R,5R)-3,4-dihydroxy-5-(hydroxymethyl)oxolan-2-yl]-6-aminopurin-2-yl}pyrazole-4-carboxylate | 46.4 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)N)N1N=CC(=C1)C(=O)OCC | C16H19N7O6
reactant | methylamine | 600 ml | CN | CH5N
product | (1-{9-[(4S,2R,3R,5R)-3,4-dihydroxy-5-(hydroxymethyl)oxolan-2-yl]-6-aminopurin-2-yl}pyrazol-4-yl)-N-methylcarboxamide | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)N)N1N=CC(=C1)C(=O)NC | C15H18N8O5
